US07375113B2
3-(β-D-Glucopyranosyloxy)-4-(2-phenylethyl)-1H-pyrazolo-[3,4-b]pyridine
To a solution of 4-(2-phenylethyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo-[3,4-b]pyridine (0.26 g) in methanol (5 mL) was added sodium methoxide (28% methanol solution, 0.067 mL), and the mixture was stirred at 50° C. for 5 hours. To the reaction mixture was added acetic acid (0.04 mL), and the resulting mixture was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1-5/1) to give the title compound (91 mg)

reactant | 4-(2-phenylethyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo-[3,4-b]pyridine | 0.26 g | C1(=CC=CC=C1)CCC1=C2C(=NC=C1)NN=C2O[C@H]2[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O2)COC(C(C)(C)C)=O | C40H55N3O10
reactant | sodium methoxide | 0.067 mL | C[O-].[Na+]
reactant | acetic acid | 0.04 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 5 mL | CO | CH4O
product | 3-(β-D-Glucopyranosyloxy)-4-(2-phenylethyl)-1H-pyrazolo-[3,4-b]pyridine | 91 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC2=NC=CC(=C21)CCC2=CC=CC=C2 | C20H23N3O6
